US08071807B2
[3-(2-Bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester was treated with 2-propanethiol as described in Example 21, Step 8 to provide [4-chloro-3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester, which was reduced to [3-(4-amino-2-isopropylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester as described in Example 21, Step 9. Treatment of the amine with pivaloyl chloride as described in Example 21, Step 10 provided {4-chloro-3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester to the acid was carried out as described in Example 21, Step 11.

reactant | [3-(2-Bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C17H15BrClNO5
reactant | 2-propanethiol | CC(C)S | C3H8S
product | [4-chloro-3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)C)=O | C20H22ClNO5S
